US04734126
6 g (0.11 mol) of sodium methylate were introduced in portions into a suspension of 24 g (0.11 mol) of trimethylsulphoxonium iodide in 24 g of dimethylsulphoxide. 10 ml of tetrahydrofuran were also added, and the reaction mixture was then stirred for 5 hours at room temperature. Thereafter, a solution of 16.8 g (0.1 mol) of 1,2,4-triazol-1-yl-pinacolin in 100 ml of tetrahydrofuran was added dropwise, and the mixture was heated at 70° C. for 5 hours. The reaction mixture was filtered, and the filtrate was concentrated in vacuo. The residue was dissolved in chloroform, and the solution was washed with water, dried over sodium sulphate, filtered and concentrated. 13.8 g of a 69.4% pure 2-tert.-butyl-2-(1,2,4-triazol-1-yl-methyl)-oxirane of refractive index nD20 =1.4872 were obtained.

reactant | sodium methylate | 0.11 mol, 6 g | C[O-].[Na+]
reactant | trimethylsulphoxonium iodide | 0.11 mol, 24 g | [I-].C[S+](=O)(C)C
reactant | 1,2,4-triazol-1-yl-pinacolin | 0.1 mol, 16.8 g | CC(C)(C)C(=O)CN1C=NC=N1 | C8H13N3O
solvent | dimethylsulphoxide | 24 g | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-tert.-butyl-2-(1,2,4-triazol-1-yl-methyl)-oxirane | 69.4% | C(C)(C)(C)C1(OC1)CN1N=CN=C1 | C9H15N3O
